US08377957B2
The method described in Part A of Example 1 was used to treat 2,4-dichloro-3-nitroquinoline (10.0 g, 40.8 mmol) in DMF (100 mL) with triethylamine (8.53 mL, 61.2 mmol) and 3-aminomethylpyridine (4.16 mL, 40.8 mmol). After the precipitate was isolated by filtration, it was dried for three hours in a vacuum oven at 60° C. to provide 13.0 g of 2-chloro-3-nitro-N-(pyridin-3-ylmethyl)quinolin-4-amine as a yellow solid.

reactant | 2,4-dichloro-3-nitroquinoline | 40.8 mmol, 10.0 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | triethylamine | 61.2 mmol, 8.53 mL | C(C)N(CC)CC | C6H15N
reactant | 3-aminomethylpyridine | 40.8 mmol, 4.16 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-chloro-3-nitro-N-(pyridin-3-ylmethyl)quinolin-4-amine | 13.0 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC=1C=NC=CC1 | C15H11ClN4O2
